US05152919
The (2S,5S)-2-methyl-5-propoxyhexanoic acid prepared above was reacted with oxalyl chloride to obtain (2R,5S)-2-methyl-5-propoxyhexanoic acid chloride. The title compound was prepared in the same manner as in Example 9 from the acid chloride obtained above and the corresponding core-compound, 4-octyloxyphenyl 4'-hydroxy-4-biphenylcarboxylate.

reactant | (2S,5S)-2-methyl-5-propoxyhexanoic acid | C[C@H](C(=O)O)CC[C@H](C)OCCC | C10H20O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | (2R,5S)-2-methyl-5-propoxyhexanoic acid chloride | C[C@@H](C(=O)Cl)CC[C@H](C)OCCC | C10H19ClO2
